US06693123B2
N-[4-(2-(4-Methoxypyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Sodium Salt
N-[4-(2-(4-chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester, prepared as in Example 1040, (62 mg, 0.12 mmol) was dissolved in DMF (1 mL) and treated with NaOMe (0.5 M in MeOH, 1.25 mL, 0.63 mmol). After stirring 18 hours at ambient temperature, the reaction was evaporated and lyophilized from water to provide 68 mg of the title compound. MS m/e 477 (M+H)+.

reactant | N-[4-(2-(4-chloropyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine methyl ester | COC([C@@H](NC(C1=C(C=C(C=C1)C=CC=1C=NC=CC1Cl)C1=C(C=CC=C1)C)=O)CCSC)=O | C27H27ClN2O3S
reactant | NaOMe | 0.63 mmol, 0.5 M, 1.25 mL | C[O-].[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-[4-(2-(4-Methoxypyridin-3-yl)ethenyl)-2-(2-methylphenyl)benzoyl]methionine Sodium Salt | 68 mg | [Na+].COC1=C(C=NC=C1)C=CC1=CC(=C(C(=O)N[C@@H](CCSC)C(=O)[O-])C=C1)C1=C(C=CC=C1)C | InChI=1S/C27H28N2O4S.Na/c1-18-6-4-5-7-21(18)23-16-19(8-10-20-17-28-14-12-25(20)33-2)9-11-22(23)26(30)29-24(27(31)32)13-15-34-3;/h4-12,14,16-17,24H,13,15H2,1-3H3,(H,29,30)(H,31,32);/q;+1/p-1/t24-;/m0./s1
